US07053099B1
d) 1-(2,6-Difluorophenyl-5-phenoxy-3,4-dihydro-(1H)-quinazolin-2-one
The product of example 1c above, 2-phenoxy-6-(2,6-difluorophenylamino)benzylamine, (0.159 g 0.49 mmol) was dissolved in dry tetrahydrofuran (6 mL) and stirred under argon at room temperature. 1,1′-Carbonyldiimidazole (0.102 g, 0.63 mmol) dissolved in dry tetrahydrofuran (4 mL) was added and the mixture stirred at room temperature, and then heated to reflux The solvent was evaporated in vacuo, to give a crude product which was flash chromatographed on silica gel eluted with 0–3% methanol in methylene chloride to give an intermediate imidazole-1-carboxylic acid[2-(2,6-difluorophenylamino)-6-phenoxyphenylamide. The imidazole-1-carboxylic acid[2-(2,6-difluorophenylamino)-6-phenoxyphenylamide was dissolved in tetrahydrofuran (5 mL) and sodium hydride hydride, dry, 95% (0.025 g, 1 mmol) was added. The resulting mixture was stirred for four hours under argon. The solvent was evaporated and the residue was partioned between ethyl acetate and water. The organic phase was washed with brine, dried over anhydrous Na2SO4, filtered, and evaporated to give the crude product which was then chromatographed on silica gel eluted with 0–20% ethyl acetate in CH2Cl2 to give the title compound as a white amorphous solid. mp 199–201° C.

reactant | imidazole-1-carboxylic acid | N1(C=NC=C1)C(=O)O | C4H4N2O2
reactant | 2-(2,6-difluorophenylamino)-6-phenoxyphenylamide | FC1=C(C(=CC=C1)F)NC1=C(C(=CC=C1)OC1=CC=CC=C1)[NH-]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2,6-Difluorophenyl-5-phenoxy-3,4-dihydro-(1H)-quinazolin-2-one | FC1=C(C(=CC=C1)F)N1C(NCC2=C(C=CC=C12)OC1=CC=CC=C1)=O | C20H14F2N2O2
